US04428940
(d) 3-(2,3-Dihydro-2-benzofuranyl) propanol
2-(2,3-Dihydrobenzofuranyl)-propanoic acid (10 g) was dissolved in ether (60 mls) added dropwise to a stirred suspension of lithium aluminum hydride (2.0 g) in ether (90 mls). The reaction temperature was maintained below 30° C. whilst under an atmosphere of nitrogen. After 3 hours water was added to destroy excess hydride. The mixture was filtered and the ether layer separated and dried over anhydrous magnesium sulphate. Removal of solvent gave an oil (8.0 g). M/e 178.0984 NMR (CDCl3) (60 MHz) δ1.65 (4H, m); 2.30-3.30 (2H, m); 3.50 (2H, t, J=6 Hz); 3.90 (1H, s), 4.65 (1H, m); 6.40-7.20 (4H, m).

reactant | 2-(2,3-Dihydrobenzofuranyl)-propanoic acid | 10 g | O1C(CC2=C1C=CC=C2)C(C(=O)O)C | C11H12O3
reactant | lithium aluminum hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | ether | 60 mls | CCOCC | C4H10O
reactant | ether | 90 mls | CCOCC | C4H10O
product | 3-(2,3-Dihydro-2-benzofuranyl) propanol | 8.0 g | O1C(CC2=C1C=CC=C2)CCCO | C11H14O2
